US06005103
4-Hydroxy-3-[1-[(phenylmethyl)thio]-3-methylbutyl]-6-phenyl-2H-pyran-2-one (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.5 g, 7.98 mmol), isovaleraldehyde (0.69 g, 7.98 mmol), benzylmercaptan (1.98 g, 15.96 mmol), piperidine, (1.0 mL), acetic acid (1.0 mL). m.p. 153-155° C.;1H NMR (400 MHz, DMSO-d6) δ0.64 (d, 3 H), 0.81 (d, 3 H), 1.25 (m, 1 H), 1.53 (m, 1 H), 2.04 (m, 1 H), 3.69 (ABXq, 2 H), 4.22 (q, 1 H); IR (KBr) 3086, 2955, 1651, 1566, 1497, 1404, 1311, 1127, 912, 766, (8).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 7.98 mmol, 1.5 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | isovaleraldehyde | 7.98 mmol, 0.69 g | C(CC(C)C)=O | C5H10O
reactant | benzylmercaptan | 15.96 mmol, 1.98 g | C(C1=CC=CC=C1)S | C7H8S
reactant | piperidine | 1.0 mL | N1CCCCC1 | C5H11N
reactant | KBr | [K+].[Br-]
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-3-[1-[(phenylmethyl)thio]-3-methylbutyl]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)C(CC(C)C)SCC1=CC=CC=C1 | C23H24O3S
